US07691892B2
c) 4-[4-Methyl-5-(2-m-tolyl-2H-tetrazol-5-ylmethoxy)-4H-[1,2,4]triazol-3-yl]-pyridine
The title compound (23.6 mg, 52%, white solid) was prepared from (2-m-tolyl-2H-tetrazol-5-yl)-methanol (24.8 mg, 0.13 mmol), sodium hydride (8 mg, 0.2 mmol) and 4-(5-methanesulfonyl-4-methyl-4H-[1,2,4]triazol-3-yl)-pyridine (38 mg, 0.16 mmol). The product was purified by chromatography using a silica SPE tube (2.5-5% methanol in dichloromethane, desired product was second product eluting). 1H NMR (CDCl3) δ (ppm): 8.78 (m, 2H), 7.98 (s, 1H), 7.97 (d, 1H), 7.64 (d, 2H), 7.46 (t, 1H), 7.34 (d, 1H), 5.94 (s, 2H), 3.63 (s, 3H), 2.50 (s, 3H).

reactant | (2-m-tolyl-2H-tetrazol-5-yl)-methanol | 0.13 mmol, 24.8 mg | C1(=CC(=CC=C1)N1N=C(N=N1)CO)C | C9H10N4O
reactant | sodium hydride | 0.2 mmol, 8 mg | [H-].[Na+]
reactant | 4-(5-methanesulfonyl-4-methyl-4H-[1,2,4]triazol-3-yl)-pyridine | 0.16 mmol, 38 mg | CS(=O)(=O)C=1N(C(=NN1)C1=CC=NC=C1)C | C9H10N4O2S
product | 4-[4-Methyl-5-(2-m-tolyl-2H-tetrazol-5-ylmethoxy)-4H-[1,2,4]triazol-3-yl]-pyridine | 23.6 mg, 52% | CN1C(=NN=C1OCC=1N=NN(N1)C=1C=C(C=CC1)C)C1=CC=NC=C1 | C17H16N8O
